US04467090
8-Fluoro-5-(p-fluorophenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole [RH]
In a Parr bottle were combined 5% Pd/C (10 g of 50% water-wet) and 60 g of 8-fluoro-5-(p-fluorophenyl)-2-carbobenzoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]-indole (60 g, 0.143 mole) in 400 ml ethyl acetate and 100 ml methanol and the mixture hydrogenated at 44-80 psig for 4 hours. Catalyst was recovered by filtration and the filtrate evaporated to solids in vacuo. The residue taken into CH2Cl2, carbon treated, dried (Na2SO4) and CH2Cl2 displaced and hexane by distillation to a final pot temperture of 70° C. The white, crystalline product was recovered by filtration, 35.6 g, m.p. 126°-129° C.

reactant | 8-fluoro-5-(p-fluorophenyl)-2-carbobenzoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]-indole | 0.143 mole, 60 g | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCN(C3)C(=O)OCC3=CC=CC=C3 | C25H20F2N2O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 10 g | [Pd] | Pd
product | 8-Fluoro-5-(p-fluorophenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCNC3 | C17H14F2N2
